US04593118
Example VII was repeated except that 2-acetamido-3-benzylaminobutyric acid was refluxed in 6M HCl to yield 2-amino-3-benzylaminobutyric acid.

reactant | 2-acetamido-3-benzylaminobutyric acid | C(C)(=O)NC(C(=O)O)C(C)NCC1=CC=CC=C1 | C13H18N2O3
solvent | HCl | 6M | Cl | ClH
product | 2-amino-3-benzylaminobutyric acid | NC(C(=O)O)C(C)NCC1=CC=CC=C1 | C11H16N2O2
